US06201027B1
3-{[3,5-Dichloro-4-(methylsulfonyl)phenyl]methylene}-2,4-pentanedione
3,5-Dichloro-4-(methylsulfonyl)benzaldehyde (1.5 g), 2-propanol (20 mL), 2,4-pentanedione (1.6 mL), formic acid (44 mL) and piperidine (114 mL) were mixed and stirred at 22-25° C. for 63 h. The product was filtered, washed with 2-propanol and dried (yield 1.0 g, melting point 134-136° C.). 1H-NMR(400 MHz, DMSO-d6 d=2.29 (s, 3H), 2.46 (s, 3H), 3.48 (s, 3H), 7.67 (s, 2 H), 7.71 (s, 1H).

reactant | 3,5-Dichloro-4-(methylsulfonyl)benzaldehyde | 1.5 g | ClC=1C=C(C=O)C=C(C1S(=O)(=O)C)Cl | C8H6Cl2O3S
reactant | 2-propanol | 20 mL | CC(C)O | C3H8O
reactant | 2,4-pentanedione | 1.6 mL | CC(CC(C)=O)=O | C5H8O2
reactant | piperidine | 114 mL | N1CCCCC1 | C5H11N
solvent | formic acid | 44 mL | C(=O)O | CH2O2
product | 3-{[3,5-Dichloro-4-(methylsulfonyl)phenyl]methylene}-2,4-pentanedione | ClC=1C=C(C=C(C1S(=O)(=O)C)Cl)C=C(C(C)=O)C(C)=O | C13H12Cl2O4S
